US04089960
97 g (0.6 mole) of 2-methoxy-4,6-dimethylnicotinonitrile and 230 g of solid potassium hydroxide are dissolved in 1000 ml of ethanol and 120 ml of water and the solution is refluxed under nitrogen for 82 hours. The mixture is cooled, the precipitated substance collected by filtration, and the bulk of the ethanol is distilled off from the filtrate in vacuo. The residue is dissolved in 500 ml of water and extracted with methylene chloride. The alkaline aqueous phase is adjusted to pH 3.3 with concentrated hydrochloric acid and the precipitated crude product is collected by filtration. Recrystallisation of this crude product from ethanol yields pure 2-methoxy-4,6-dimethylnicotinic acid (m.p. 210°-215° C).

reactant | 2-methoxy-4,6-dimethylnicotinonitrile | 0.6 mole, 97 g | COC1=C(C#N)C(=CC(=N1)C)C | C9H10N2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 120 ml | O | H2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2-methoxy-4,6-dimethylnicotinic acid | COC1=C(C(=O)O)C(=CC(=N1)C)C | C9H11NO3
